US07037916B2
Isobutyl chloroformate (520 μL, 4.0 mmol) was added to a solution of N-Boc leucine monohydrate (1.0 g, 4.0 mmol) and N-methyl morpholine (440 μL, 1.73 mmol) in THF at 0° C. After two minutes, 3-methoxypropylamine (410 μL, 4.0 mmol) was added and the mixture was allowed to warm to rt. After thirty minutes, the reaction mixture was filtered through a bed of celite and all volatiles were removed under reduced pressure to yield N-Boc-L-leucine-3-methoxypropyl amide (1.10 g, 92%) as a white solid. 1H NMR: (CDCl3) δ 0.93, 6H, d; 1.42, 9H, s; 3.35, 3H, s; 3.38, 2H, d; 3.43 m 2H, t; 4.03m 1H, m; 4.39, s, 1H; 4.91, 1H, m; 6.60, 1H, m,

reactant | Isobutyl chloroformate | 4.0 mmol, 520 μL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-Boc leucine monohydrate | 4.0 mmol, 1.0 g | O.C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O
reactant | N-methyl morpholine | 1.73 mmol, 440 μL | CN1CCOCC1 | C5H11NO
reactant | 3-methoxypropylamine | 4.0 mmol, 410 μL | COCCCN | C4H11NO
solvent | THF | C1CCOC1 | C4H8O
product | N-Boc-L-leucine-3-methoxypropyl amide | 1.10 g, 92% | COCCCNC([C@@H](NC(=O)OC(C)(C)C)CC(C)C)=O | C15H30N2O4
